### PR TITLE
Prove AffineIncrEquiv.homomorphism_from_Real_characterization, new lemmas

### PR DESCRIPTION
**Pull request by joelkronqvist**
* prove the theorem
* add definitions for AffineIncrEquiv.hom_coef_fst/snd
* prove "ext" lemmas between homomorphisms to AffineIncrEquiv
* change the order of the variable and coefficient in homOfIndex and homOfIndex₀ to match the (more conventional) order given by eq_exp_const_mul_of_multiplicative_of_measurable and fix breakages

### CODE REVIEW

File: ExtremeValueProject/OneParameterAffine.lean [hunk 1]
```diff
@@ -547,11 +554,123 @@ lemma measurable_toMultiplicative :
...
 
+noncomputable def AffineIncrEquiv.hom_coef_fst
+    (f : MonoidHom (Multiplicative ℝ) AffineIncrEquiv) :=
+  fun s ↦ (f s).coefs.1
+
+noncomputable def AffineIncrEquiv.hom_coef_snd
+    (f : MonoidHom (Multiplicative ℝ) AffineIncrEquiv) :=
+  fun s ↦ (f s).coefs.2
+
+lemma AffineIncrEquiv.hom_ext'
```
Comment (joelkronqvist) [inline ExtremeValueProject/OneParameterAffine.lean]: Change `AffineIncrEquiv.hom_ext'` -> `AffineIncrEquiv.hom_ext`

File: ExtremeValueProject/OneParameterAffine.lean [hunk 2]
```diff
@@ -547,11 +554,123 @@ lemma measurable_toMultiplicative :
...
+       = hom_coef_fst g s * x + hom_coef_snd g s
+  rw [fst_coefs_eq, snd_coefs_eq]
+
+lemma AffineIncrEquiv.homOfIndex_iff_ext
+    {α c : ℝ}
+    {f : MonoidHom (Multiplicative ℝ) AffineIncrEquiv}
+    (coef_1_eq : hom_coef_fst f = λ s : ℝ ↦ Real.exp (α * s))
+    (coef_2_eq : hom_coef_snd f = λ s : ℝ ↦ c * (1 - Real.exp (α * s))) :
+      f = AffineIncrEquiv.homOfIndex α c := by
+  apply AffineIncrEquiv.hom_ext'
```
Comment (joelkronqvist) [inline ExtremeValueProject/OneParameterAffine.lean]: Change `hom_ext'` -> `hom_ext`

File: ExtremeValueProject/OneParameterAffine.lean [hunk 3]
```diff
@@ -547,11 +554,123 @@ lemma measurable_toMultiplicative :
...
+  · rw [coef_2_eq]
+    unfold hom_coef_snd
+    simp; rfl
+
+lemma AffineIncrEquiv.homOfIndex₀_iff_ext
+    {β : ℝ} {f : MonoidHom (Multiplicative ℝ) AffineIncrEquiv}
+    (coef_1_one : hom_coef_fst f = 1)
+    (coef_2_eq_t_β : hom_coef_snd f = fun s ↦ β * s) :
+      f = homOfIndex₀ β := by
+  apply AffineIncrEquiv.hom_ext'
```
Comment (joelkronqvist) [inline ExtremeValueProject/OneParameterAffine.lean]: Change `hom_ext'` -> `hom_ext`

**Review by joelkronqvist — COMMENTED** [review]
There will probably be more to discuss/review, but here's at least one thing that should be fixed: I originally wrote two different lemmas for proving the equality of homomorphisms from the real line to `AffineIncrEquiv` but the first one didn't seem useful. I deleted it but forgot to remove the `'` from the second one.

File: ExtremeValueProject/OneParameterAffine.lean [hunk 4]
```diff
@@ -383,6 +384,12 @@ lemma AffineIncrEquiv.conjugate_homOfIndex₀ (A : AffineIncrEquiv) (β : ℝ) (
     A * homOfIndex₀ β s * A⁻¹ = homOfIndex₀ (β * A.coefs.1) s := by
   sorry -- **Issue #46**
 
+lemma AffineIncrEquiv.homOfIndex_zero_ext_of_coefs
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean:387]:
```suggestion
lemma AffineIncrEquiv.homOfIndex₀_ext_of_coefs
```

File: ExtremeValueProject/OneParameterAffine.lean [hunk 5]
```diff
@@ -547,11 +554,123 @@ lemma measurable_toMultiplicative :
...
+    AffineIncrEquiv.homomorphism_coef_eqn_snd f s t
+  have a_mble : Measurable a :=
+    Measurable.comp AffineIncrEquiv.measurable_coefs_fst f_mble
+  have b_mble : Measurable b :=
+    Measurable.comp AffineIncrEquiv.measurable_coefs_snd f_mble
+  have b_zero : b 0 = 0 := by
+    show b₀ (f (0 : ℝ)) = 0
+    have : f (0 : ℝ) = 1 := map_one f
+    rw [this]
+    exact AffineIncrEquiv.coefs_snd_one
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]: I think the auxiliary result's idea is clear already from this shorter proof, since the clear statement `b 0 = 0` is explicit in the `have` (which is good style!).

```suggestion
    rw [show b 0 = b₀ (f (0 : ℝ)) from rfl, show f (0 : ℝ) = 1 from map_one f]
    exact AffineIncrEquiv.coefs_snd_one
```

File: ExtremeValueProject/OneParameterAffine.lean [hunk 6]
```diff
@@ -547,11 +554,123 @@ lemma measurable_toMultiplicative :
...
+    unfold hom_coef_snd
+    ext s
+    simp
+
 /-- Characterization of homomorphisms `f : ℝ → AffineIncrEquiv`. -/
 theorem AffineIncrEquiv.homomorphism_from_Real_characterization
     (f : MonoidHom (Multiplicative ℝ) AffineIncrEquiv) (f_mble : Measurable f) :
-    (∃ β, f = homOfIndex₀ β) ∨ (∃ α c, f = homOfIndex α c) := by
-  sorry -- TODO: Create issue.
+    (∃ β, f = homOfIndex₀ β) ∨ (∃ α c, f = homOfIndex α c) :=
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]: Proofs (of more than 1 line) should be written in tactic mode for readability!

```suggestion
    (∃ β, f = homOfIndex₀ β) ∨ (∃ α c, f = homOfIndex α c) := by
```

I made a few example comments below about what the tactic mode will allow in terms of readability. Please rewrite the proof in tactic mode, and I can give more useful feedback.

File: ExtremeValueProject/OneParameterAffine.lean [hunk 7]
```diff
@@ -547,11 +554,123 @@ lemma measurable_toMultiplicative :
...
+    Measurable.comp AffineIncrEquiv.measurable_coefs_fst f_mble
+  have b_mble : Measurable b :=
+    Measurable.comp AffineIncrEquiv.measurable_coefs_snd f_mble
+  have b_zero : b 0 = 0 := by
+    show b₀ (f (0 : ℝ)) = 0
+    have : f (0 : ℝ) = 1 := map_one f
+    rw [this]
+    exact AffineIncrEquiv.coefs_snd_one
+  have ex_const_α :=
+    @eq_exp_const_mul_of_multiplicative_of_measurable a a_pos a_hom a_mble
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]: In tactic mode obtaining some values is no longer cryptic:

```suggestion
   obtain ⟨α, a_eq_exp_α⟩ := @eq_exp_const_mul_of_multiplicative_of_measurable a a_pos a_hom a_mble
```

File: ExtremeValueProject/OneParameterAffine.lean [hunk 8]
```diff
@@ -547,11 +554,123 @@ lemma measurable_toMultiplicative :
...
+  Exists.elim ex_const_α fun α ↦ fun a_eq_exp_α_s ↦ Or.elim (em (α = 0))
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]: Again, in tactic mode `Exists.elim ex_const_α fun α ↦ fun a_eq_exp_α_s ↦ Or.elim (em (α = 0)) ...` should become something more readable.

File: ExtremeValueProject/OneParameterAffine.lean [hunk 9]
```diff
@@ -547,11 +554,123 @@ lemma measurable_toMultiplicative :
...
+    fun α_eq_zero ↦ by
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]: In tactic mode you will avoid indentation which is unrelated to proof structure, and an implication introduction step is readably written as `intro α_eq_zero` rather than `fun α_eq_zero ↦ by`:

```suggestion
  intro α_eq_zero
```

Sorry that these suggested edits will break the code, but I cannot suggest local edits to a long term mode proof.

File: ExtremeValueProject/OneParameterAffine.lean (hunk 5 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: This is now applied in a6e4f709c126d3b5eb11afb9796232871142bdf9 which now seems to be part of the pull request in some sense

File: ExtremeValueProject/OneParameterAffine.lean (hunk 6 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: This and the next suggestions related to applying tactics should be fixed in a6e4f709c126d3b5eb11afb9796232871142bdf9.

Regarding using `intro`, I used now a `by_cases` which I assume is the tactic-mode equivalent for my original `Or.elim (em α = 0) (fun α_eq_zero => ...) (fun α_ne_zero => ...)`. Thus it's not needed, but as a tradeoff we don't get to name the hypothesis based on what it states about α. One way to reintroduce well-named hypotheses could be to just pattern match at `Classical.em α = 0`.

File: ExtremeValueProject/OneParameterAffine.lean (hunk 7 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: Resolved, see (https://github.com/kkytola/ExtremeValueProject/pull/68#discussion_r3512370408)

File: ExtremeValueProject/OneParameterAffine.lean (hunk 9 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: I'm marking this also as resolved as this discussion is probably better suited in https://github.com/kkytola/ExtremeValueProject/pull/68#discussion_r3512370408 after a6e4f709c126d3b5eb11afb9796232871142bdf9.

File: ExtremeValueProject/OneParameterAffine.lean (hunk 8 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: It's now `obtain ...; by_cases ...`, a6e4f709c126d3b5eb11afb9796232871142bdf9. I'm marking this as resolved too because this fix essentially boils down to how to use tactics well, which the discussion https://github.com/kkytola/ExtremeValueProject/pull/68#discussion_r3511481328 is about.

File: ExtremeValueProject/OneParameterAffine.lean (hunk 4 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean:387]: There seemed to be other occurrences of `homOfIndex_zero`, I can see which of these would be good to change.

I suspect there will still be commits improving style etc., so I'm not fixing this immediately to avoid doing a one-row commit (I forgot to include this in a6e4f709c126d3b5eb11afb9796232871142bdf9)

**Comment by joelkronqvist** [comment]
This PR was accidentally closed, so I reopened this at https://github.com/kkytola/ExtremeValueProject/pull/69.
